US07585885B2
5-Difluoromethyl-N-methyl-N-propyl-isophthalamic acid
Stir a solution of 5-difluoromethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester (68 mg, 0.23 mmol), 1 N lithium hydroxide (1.15 mL) and THF (1.15 mL) at room temperature over the weekend. Add water and extract with dichloromethane. Acidify the aqueous with 5 N HCl (240 μL), extract with dichloromethane, dry (magnesium sulfate) and concentrate to give the title compound (61 mg, 100%).

reactant | 5-difluoromethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester | 0.23 mmol, 68 mg | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(F)F)=O | C15H19F2NO3
reactant | lithium hydroxide | 1 N, 1.15 mL | [OH-].[Li+]
solvent | THF | 1.15 mL | C1CCOC1 | C4H8O
product | 5-Difluoromethyl-N-methyl-N-propyl-isophthalamic acid | 61 mg, 100% | FC(C=1C=C(C=C(C(=O)O)C1)C(=O)N(CCC)C)F | C13H15F2NO3
